US05001125
A mixture of 5.8 parts of 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine and 3 parts of thiourea was stirred for 3 hours in an oil bath at 165° C. After cooling, there were added 150 parts of a sodium hydroxide solution 0.5 N. The whole was stirred and refluxed for 15 minutes. It was filtered while hot and the filtrate was neutralized with acetic acid. The product was filtered off, washed with water and separated by column chromatography over silica gel using a mixture of trichloromethane and methanol (98.5:1.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of ethanol and tetrahydrofuran. The product was filtered off and dried, yielding 1.3 parts (22 7%) of 6-[4-(3-methylphenyl)-1-piperazinyl]-3-pyridazinethiol; mp. 174° C. (compound 273).

reactant | 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine | ClC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C15H17ClN4
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
product | 6-[4-(3-methylphenyl)-1-piperazinyl]-3-pyridazinethiol | 7% | CC=1C=C(C=CC1)N1CCN(CC1)C1=CC=C(N=N1)S | C15H18N4S
